US08197793B2
c) Synthesis of 2-[2-(2-fluoromethyl-phenylsulfanyl)-ethyl]-[1,3]dioxolane—Compound 26
Potassium fluoride (3.5 mg, 0.060 mmol) and kryptofix 222 (22.5 mg, 0.060 mmol) were dissolved in acetonitrile (1 ml) and added to 2-[2-(2-chloromethyl-phenylsulfanyl)-ethyl]-[1,3]dioxolane (7.7 mg, 0.030 mmol) in acetonitrile (1 ml). The reaction mixture was heated to 70 degrees for 30 minutes. The crude product was purified by reverse phase preparative chromatography (Vydac 218TP1022 column; solvents A=water/0.1% TFA and B=CH3CN/0.1% TFA; gradient 40-80% B over 40 min; flow 10 ml/minute; detection at 254 nm). The fractions were left in the fridge overnight and to the acetonitrile phase was added diethyl ether, dried (Na2SO4) and evaporated under reduced pressure. (Analytical HPLC: Vydac 218TP54 column; solvents: A=water/0.1% TFA and B=CH3CN/0.1% TFA; gradient 40-80% B over 20 min; flow 1.0 ml/minute; retention time 9.200 minutes detected at 214 and 254 nm). Structure verified by NMR.

reactant | Potassium fluoride | 0.060 mmol, 3.5 mg | [F-].[K+]
reactant | kryptofix 222 | 0.060 mmol, 22.5 mg | C1COCCOCCN2CCOCCOCCN1CCOCCOCC2 | C18H36N2O6
reactant | 2-[2-(2-chloromethyl-phenylsulfanyl)-ethyl]-[1,3]dioxolane | 0.030 mmol, 7.7 mg | ClCC1=C(C=CC=C1)SCCC1OCCO1 | C12H15ClO2S
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 2-[2-(2-fluoromethyl-phenylsulfanyl)-ethyl]-[1,3]dioxolane | FCC1=C(C=CC=C1)SCCC1OCCO1 | C12H15FO2S
